* Resonant Tank AC Frequency Sweep Analysis
* sim_24_resonant_tank_ac.cir
*
* PURPOSE: Characterize the series LC resonant tank with pan load
*          using AC frequency sweep to determine:
*          - Resonant frequency
*          - Impedance at resonance
*          - Q-factor
*          - Phase relationship for ZVS
*
* THEORY:
* Series LC resonant tank with load forms a band-pass characteristic.
* At resonance: XL = XC, impedance is purely resistive (minimum)
* For ZVS: operate slightly above resonance so current lags voltage
*
* RESONANT TANK TOPOLOGY:
*
*              C_res              L_coil
*    DRIVE o----||----o----YYYY----o----o
*                     |            |    |
*                     |          Rcoil  |
*                     |            |    |
*                     |            o    Rref (reflected)
*                     |            |    |
*                     |            |    |
*    RETURN o---------o------------o----o
*
* The "drive" input comes from half-bridge midpoint.
* The "return" connects to DC bus midpoint (neutral).
*
***************************************************************************

.title Resonant Tank AC Frequency Sweep Analysis

***************************************************************************
* SIMULATION OPTIONS
***************************************************************************
.options reltol=1e-4
.options abstol=1e-12
.options vntol=1e-6

***************************************************************************
* INCLUDE PAN LOAD MODEL
***************************************************************************
.include ../models/pan_load.sub

***************************************************************************
* DESIGN PARAMETERS
***************************************************************************
* Target resonant frequency
.param F_RES=35k           ; Target 35kHz
.param OMEGA_RES={2*3.14159*F_RES}

* Coil parameters (uncoupled)
.param L1_UNCOUPLED=80u    ; 80uH uncoupled inductance
.param K_COUPLE=0.5        ; Coupling coefficient (cast iron pan)
.param L_EFF={L1_UNCOUPLED*(1-K_COUPLE*K_COUPLE)}  ; ~60uH effective

* Resonant capacitor: C = 1/(omega^2 * Leff)
* For 35kHz and 60uH: C = 345nF
.param C_RES=330n          ; Use standard value (shifts freq slightly)

* Calculated resonant frequency with standard cap
* f = 1/(2*pi*sqrt(L*C)) = 1/(2*pi*sqrt(60u*330n)) = 35.8kHz

* Load parameters
.param R_PAN=8             ; Cast iron reflected resistance
.param R_COIL=0.1          ; Primary coil resistance

***************************************************************************
* TEST CIRCUIT - AC SWEEP
***************************************************************************
* AC voltage source (1V for impedance measurement)
V_ac input 0 AC 1 DC 0

* Resonant capacitor (series with coil)
C_res input n_cap {C_RES}

* Pan load model - uses simplified model for AC analysis
* This represents: Leff in series with Rcoil and Rref
L_eff n_cap n_l {L_EFF} IC=0
R_coil n_l n_r {R_COIL}
R_ref n_r 0 {R_PAN}

***************************************************************************
* AC ANALYSIS
***************************************************************************
* Sweep from 20kHz to 60kHz with 1000 points
.ac dec 1000 20k 60k

***************************************************************************
* MEASUREMENTS
***************************************************************************
* Calculate resonant frequency from component values
.param F_CALC={1/(2*3.14159*sqrt(L_EFF*C_RES))}

* Q factor: Q = omega * L / R = 1/(omega * C * R)
.param Q_FACTOR={OMEGA_RES*L_EFF/(R_PAN+R_COIL)}

***************************************************************************
* CONTROL SCRIPT
***************************************************************************
.control
run

echo ""
echo "============================================================"
echo "Resonant Tank AC Analysis - Simulation 24"
echo "============================================================"
echo ""

* Design parameters
echo "DESIGN PARAMETERS:"
echo "  Target frequency: 35 kHz"
echo "  Coil inductance (uncoupled): 80 uH"
echo "  Coupling coefficient: 0.5"
let l_eff_val = 80u * (1 - 0.5*0.5)
print l_eff_val
echo "  Effective inductance: ^"
echo "  Resonant capacitor: 330 nF"
echo "  Reflected resistance: 8 ohm"
echo ""

* Calculate theoretical resonant frequency
let f_theory = 1/(2*3.14159*sqrt(60u*330n))
echo "THEORETICAL CALCULATIONS:"
print f_theory
echo "  Theoretical resonant frequency: ^ Hz"
echo ""

* Find resonant frequency from simulation (minimum impedance)
echo "AC ANALYSIS RESULTS:"
echo ""

* Impedance magnitude
let z_mag = abs(v(input)/i(v_ac))

* Find frequency where impedance is minimum (resonance)
let min_z = vecmin(z_mag)
print min_z
echo "  Minimum impedance (at resonance): ^ ohms"

* Phase angle
let z_phase = 180/3.14159 * (ph(v(input)) - ph(i(v_ac)))

echo ""
echo "============================================================"
echo "IMPEDANCE vs FREQUENCY"
echo "============================================================"
echo ""

* Print impedance at key frequencies
echo "  Frequency    |Z|       Phase"
echo "  --------   -------    ------"

* At 25 kHz
let z_25k = abs(v(input)[125]/i(v_ac)[125])
let ph_25k = 180/3.14159 * (ph(v(input)[125]) - ph(i(v_ac)[125]))
print z_25k ph_25k

* At 30 kHz
let idx_30k = 225
let z_30k = abs(v(input)[idx_30k]/i(v_ac)[idx_30k])
let ph_30k = 180/3.14159 * (ph(v(input)[idx_30k]) - ph(i(v_ac)[idx_30k]))
print z_30k ph_30k

* At 35 kHz  
let idx_35k = 310
let z_35k = abs(v(input)[idx_35k]/i(v_ac)[idx_35k])
let ph_35k = 180/3.14159 * (ph(v(input)[idx_35k]) - ph(i(v_ac)[idx_35k]))
print z_35k ph_35k

* At 40 kHz
let idx_40k = 385
let z_40k = abs(v(input)[idx_40k]/i(v_ac)[idx_40k])
let ph_40k = 180/3.14159 * (ph(v(input)[idx_40k]) - ph(i(v_ac)[idx_40k]))
print z_40k ph_40k

* At 45 kHz
let idx_45k = 450
let z_45k = abs(v(input)[idx_45k]/i(v_ac)[idx_45k])
let ph_45k = 180/3.14159 * (ph(v(input)[idx_45k]) - ph(i(v_ac)[idx_45k]))
print z_45k ph_45k

echo ""
echo "============================================================"
echo "Q-FACTOR ANALYSIS"
echo "============================================================"
echo ""
* Q = f_res / bandwidth (3dB points)
* Q = omega*L/R
let q_calc = 2*3.14159*35000*60u/8.1
print q_calc
echo "  Calculated Q-factor: ^"
echo "  (Low Q is expected - power is being transferred to pan!)"
echo ""

echo "============================================================"
echo "ZVS OPERATING REGION"
echo "============================================================"
echo ""
echo "For Zero Voltage Switching (ZVS):"
echo "  - Operate ABOVE resonance (inductive region)"
echo "  - Current LAGS voltage (negative phase = inductive)"
echo "  - Typical: 5-10% above resonant frequency"
echo ""
echo "With f_res ≈ 35 kHz:"
echo "  ZVS frequency range: 37-40 kHz"
echo "  At these frequencies, phase should be negative (inductive)"
echo ""

echo "============================================================"
echo "POWER CALCULATION AT 35kHz"
echo "============================================================"
echo ""
echo "At resonance with 320V half-bridge (160V fundamental):"
echo ""
let v_fund = 320 * 2 / 3.14159
print v_fund
echo "  Fundamental voltage amplitude: ^ V"
echo ""
let i_peak = v_fund / z_35k
print i_peak
echo "  Peak current at 35kHz: ^ A"
echo ""
let p_delivered = i_peak * i_peak * 8 / 2
print p_delivered
echo "  Power delivered to pan: ^ W"
echo ""

echo "============================================================"
echo "SUMMARY"
echo "============================================================"
echo ""
echo "Tank resonates near 35 kHz as designed."
echo "Impedance at resonance is dominated by reflected resistance."
echo "Low Q (around 1.6) ensures good power transfer."
echo "Operate 5-10% above resonance for ZVS."
echo ""

* Save data for plotting
wrdata sim_24_ac_results.txt z_mag z_phase

quit
.endc

.end
